Name:  ___ (MD)            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ physician with ___ diagnosis of an IgG lambda multiple 
myeloma on velcade/dexamethasone (C5D1 ___, admitted for 
high-dose cytoxan therapy.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ physician with ___ diagnosis of an IgG lambda multiple 
myeloma currently C5D18 of velcade/dexamethasone, admitted for 
high-dose cytoxan therapy. Overall, he has been feeling well. He 
states that his multiple myeloma has been asypmtomatic for him 
except for an admission in ___ for group B strep bacteremia. 
He notes that he had a fall during a run about 2 weeks ago with 
some residual minimal right-sided rib pain and right Achilles 
tendon pain. He has been taking 800mg Advil daily for the past 
___ days for the Achilles tendon with good relief. 

 
Past Medical History:
ONCOLOGIC HISTORY:
- Multiple myeloma diagnosed ___: presented with anemia and 

___, found to have protein spike between 5 and 6g. SPEP showed 
an IgG lambda, representing about 5145mg/dL or about 49% of his 
total protein. UPEP revealed Bence ___ lambda proteins with 
about 500 mg per day.  Skeletal survey performed on ___ 
showed only some degenerative changes and mild wedging of the 
T11-T12 vertebral bodies, but no definitive lytic lesions 
suspicious for myelomatous deposits. Bone marrow biopsy on 
___ showed 40% plasma cells, lambda-restricted.
- Recently enrolled in protocol ___ (blockade of PD-1 in 
conjunction with dendritic cell myeloma vaccines following stem 
cell transplantation). He started Cycle 1 of Velcade / 
Dexamethasone on ___, with plan to receive Velcade 1.3 mg/m2 
on day 1, 4, 8, and 11 (and dexamethasone 20 mg p.o. on the day 
of and the day after his Velcade). Revlimid was not started 
given concern for toxicity.
- ___ C2D1 VD
- Dose of Velcade reduced to 1 mg/m2 due to neuropathy
- ___ C3D1 VD
- ___ C4D1 VD
- Bone Marrow Bx ___ By aspirate, no increase in plasma 
cells is noted. The study is limited due to core sampling size, 
but definitive evidence of plasma cell myeloma is lacking in 
this limited biopsy.  By immunohistochemistry, CD138 staining 
shows no increase in plasma cells (<2%). 
- ___ C5D1 VD

MEDICAL & SURGICAL HISTORY:
- Rheumatic fever as a child
- Asthma during childhood (resolved)
- Allergies to pollen/cats during childhood (resolved)
- Hypertension ___
- Scalp laceration ___
- Sinus bradycardia ___
- Erectile dysfunction ___
- Gout ___
- Laryngopharyngeal reflux ___

 
Social History:
___
Family History:
No family history of lymphoma or myeloma. His
mother is ___.  Father died at the age of ___.  Father had
___.  Paternal grandfather had hypertension.  He has 2
brother's (one with ___ disease) and 1 sister.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  T 99.0, BP 120/80, HR 48, RR 16, 99% on RA
GENERAL: NAD, awake and alert, pleasant, appropriately responds 
to questions
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, no thrush or oral lesions
NECK:  nontender and supple, no LAD, no JVD  
BACK:  no spinal process tenderness, no CVA tenderness
CARDIAC: Bradycardic, regular rhythm, nl S1 S2, no MRG  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use
ABDOMEN: +BS, soft, non-tender, non-distended, no rebound or 
guarding, no HSM or masses
EXT: warm and well-perfused, no cyanosis or clubbing, left ___ 
toe with large, erythematous tophi that is chronic and 
non-tender, minimal right ankle swelling without tenderness
PULSES: 2+ DP pulses bilaterally  
NEURO: strength ___ throughout, sensation grossly normal, gait 
intact 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
Vitals:  Tc 98.3, Tm 99.0, HR 42-51, BP 110-130/62-80, RR 18, 
O2SAT 98% on RA, I/O ___
GENERAL: NAD, pleasant, sitting in bed
HEENT: NC/AT, PERRL, MMM, oropharynx clear without thrush or 
lesions
NECK: supple, no LAD
CARDIAC: Bradycardic, regular rhythm, nlS1S2, no m/r/g
LUNG: CTAB, good effort
ABDOMEN: soft, NT, ND, +BS
EXT: 2+ DP pulses bilaterally, no clubbing/cyanosis/edema, left 
___ toe with large erythematous tophi, non-tender
NEURO: grossly intact, gait intact
SKIN:  no lesions/rashes

 
Pertinent Results:
ADMISSION LABS: none, labs from 2 days prior to admission:
___ WBC 9.8 HGB 14.3 HCT 43.0 PLT 223 
___ Na 138 K 3.9 Cl 100 CO2 27 BUN 25 Cr 1.1 

PERTINENT LABS: 
See discharge labs below.

DISCHARGE LABS:

___ 05:45AM BLOOD WBC-6.8 RBC-3.82* Hgb-12.3* Hct-35.6* 
MCV-93 MCH-32.1* MCHC-34.5 RDW-15.8* Plt ___
___ 05:45AM BLOOD Glucose-141* UreaN-26* Creat-1.0 Na-141 
K-4.4 Cl-112* HCO3-21* AnGap-12
___ 05:45AM BLOOD ALT-21 AST-20 LD(LDH)-163 AlkPhos-61 
TotBili-0.2
___ 05:45AM BLOOD Calcium-8.3* Phos-2.8 Mg-1.9 UricAcd-5.2
___ 07:05AM URINE Color-Straw Appear-Clear Sp ___
___ 07:05AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-TR Ketone-150 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

MICRO/PATH: none

IMAGING/STUDIES: none
 
Brief Hospital Course:
___ physician with ___ diagnosis of an IgG lambda multiple 
myeloma currently C5D18 of velcade/dexamethasone, admitted for 
high-dose cytoxan therapy.

ACTIVE ISSUES

# Multiple Myeloma - completed high-dose cytoxan treatment for 
stem cell mobilization without complication. 

CHRONIC ISSUES

# Hypertension - stable, continued on home lisinopril

# Gout - stable, continued on allopurinol and colchicine

# Sinus Bradycardia - stable

TRANSITIONAL ISSUES

# To start ___ipro 500mg BID on ___ (D3)
# To start on ___ex 8mg Po BID on ___ (D3)
# To start Neupogen on ___ (D3)
# To avoid aspirin and ___ take acetaminophen
# Communication: ___, wife, ___
# Code: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Colchicine 0.6 mg PO BID  *Research Pharmacy Approval 
Required* Research protocol ___
2. Dexamethasone 20 mg PO DAY OF AND DAY AFTER EACH VELCADE DOSE 
 *Research Pharmacy Approval Required* Research protocol ___
3. Lisinopril 5 mg PO DAILY  *Research Pharmacy Approval 
Required* Research protocol ___
4. Acyclovir 400 mg PO Q8H  *Research Pharmacy Approval 
Required* Research protocol ___
5. Aspirin 81 mg PO DAILY  *Research Pharmacy Approval Required* 
Research protocol ___
6. Pyridoxine 50 mg PO DAILY  *Research Pharmacy Approval 
Required* Research protocol ___
7. Allopurinol ___ mg PO DAILY  *Research Pharmacy Approval 
Required* Research protocol ___
8. Ibuprofen 400 mg PO BID:PRN pain 

 
Discharge Medications:
1. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain  
*Research Pharmacy Approval Required* Research protocol ___
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*30 
Tablet Refills:*0
2. Dexamethasone 8 mg PO ASDIR  *Research Pharmacy Approval 
Required* Research protocol ___
Take 8mg PO BID on ___ and ___. Ciprofloxacin HCl 500 mg PO Q12H Duration: 10 Days  *Research 
Pharmacy Approval Required* Research protocol ___
start on ___ 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*20 Tablet Refills:*0
4. Ondansetron 8 mg PO Q8H:PRN nausea  *Research Pharmacy 
Approval Required* Research protocol ___
RX *ondansetron HCl 8 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0
5. Acyclovir 400 mg PO Q8H 
6. Allopurinol ___ mg PO DAILY 
7. Pyridoxine 50 mg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Filgrastim 480 mcg SC Q24H 
10. Colchicine 0.6 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multiple Myeloma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dr. ___ - ___ was a pleasure taking care of you during your 
stay at ___. You were admitted for scheduled high-dose cytoxan 
therapy. You tolerated the therapy well. Please DO NOT take 
aspirin or ___ after discharge. 
 
Followup Instructions:
___